US06667311B2
Under a nitrogen atmosphere, 4-phenylbenzamide (2.01 g, 10.2 mmol) was dissolved in THF (50 mL) and heated to reflux. To the mixture was added dropwise 1 M borane in THF (80.0 mL, 80.0 mmol). After refluxing for 18 h, the reaction mixture was cooled to room temperature and treated with 1 N HCl (40 mL). The solution was made basic via addition of 3 N NaOH (60 mL) and extracted with ethyl acetate (3×370 mL). The extract was washed with brine and dried over sodium sulfate. Concentration yielded 4-phenylbenzyl amine as a white solid (1.73 g, 93%).

reactant | 4-phenylbenzamide | 10.2 mmol, 2.01 g | C1(=CC=CC=C1)C1=CC=C(C(=O)N)C=C1 | C13H11NO
reactant | borane | 1 M | B | BH3
reactant | HCl | 1 N, 40 mL | Cl | ClH
reactant | NaOH | 3 N, 60 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 80.0 mmol, 80.0 mL | C1CCOC1 | C4H8O
product | 4-phenylbenzyl amine | 1.73 g, 93% | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
